US07968595B2
2-Amino-N—((R)-2,8-diamino-4-(3-bromo-4,5-dimethoxyphenyl)-3-cyano-4H-chromen-7-yl)acetamide
To an oven-dried one-neck round bottom reaction flask charged with a magnetic stir bar at rt under argon was added (9H-fluoren-9-yl)methyl((R)-2,8-diamino-4-(3-bromo-4,5-dimethoxyphenyl)-3-cyano-4H-chromen-7-ylcarbamoyl)methylcarbamate (0.050 g, 0.072 mmol), CH2Cl2:MeOH, 1:1 (2.40 mL) and 2N NaOH (0.072 mL, 0.14 mmol). The orange suspension was stirred at rt overnight. The suspension was concentrated leaving a brown residue. The residue was extracted with CHCl3 (3×40 mL), dried over MgSO4, filtered and concentrated to give the crude product. Purification by flash column chromatography (silica gel 4 g pre-packed column, gradient elution with CH2Cl2:MeOH, 96:4 to 90:10 with trace Et3N) gave 0.012 g (35%) of the title compound as a yellow solid: 1H-NMR (CDCl3): 9.34 (br s, 1H), 6.90 (d, J=1.9 Hz, 1H), 6.89 (d, J=8.5 Hz, 1H), 6.71 (d, J=1.9 Hz, 1H), 6.37 (d, J=8.2 Hz, 1H), 4.72 (br s, 2H), 4.64 (s, 1H), 4.29 (br s, 2H), 3.84 (s, 3H), 3.83 (s, 3H), 3.54 (br s, 2H).

reactant | (9H-fluoren-9-yl)methyl((R)-2,8-diamino-4-(3-bromo-4,5-dimethoxyphenyl)-3-cyano-4H-chromen-7-ylcarbamoyl)methylcarbamate | 0.072 mmol, 0.050 g | C1=CC=CC=2C3=CC=CC=C3C(C12)OC(N(CC(NC1=CC=C2[C@H](C(=C(OC2=C1N)N)C#N)C1=CC(=C(C(=C1)OC)OC)Br)=O)C)=O | C35H30BrN5O6
reactant | CH2Cl2 | C(Cl)Cl | CH2Cl2
reactant | NaOH | 0.14 mmol, 2N, 0.072 mL | [OH-].[Na+]
solvent | MeOH | CO | CH4O
product | 2-Amino-N—((R)-2,8-diamino-4-(3-bromo-4,5-dimethoxyphenyl)-3-cyano-4H-chromen-7-yl)acetamide | 0.012 g, 35% | NCC(=O)NC1=CC=C2[C@H](C(=C(OC2=C1N)N)C#N)C1=CC(=C(C(=C1)OC)OC)Br | C20H20BrN5O4
